US07842696B2
DIPEA (137 mg, 0.18 mL, 1.06 mmol) was added to a stirred solution of {[5-(2-trifluoromethyl-phenyl)-1H-pyrazole-3-carbonyl]-amino}-acetic acid (95 mg, 0.30 mmol) in DMF (2 mL). HOBT (47 mg, 0.34 mmol) and EDCI (67 mg, 0.34 mmol) were then added at room temperature. After 2 minutes, piperazin-1-yl-(2-trifluoromethyl-phenyl)-methanone hydrochloride salt (90 mg, 0.30 mmol) was added and the resulting mixture was stirred at room temperature overnight. Cold water was then added and filtered the solid precipitated out to afford 115 mg (68.45% yield) of 5-(2-trifluoromethyl-phenyl)-1H-pyrazole-3-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide. LCMS Purity: 93.52%. 1H NMR (DMSO-d6): δ 13.6 (m, 1H), 8.2 (m, 1H), 7.7 (m, 4H), 7.6 (m, 3H), 7.5 (m, 1H), 6.7 (m, 1H), 4.2 (d, 2H), 3.7 (m, 1H), 3.5 (m, 3H), 3.4 (m, 2H), 3.0 (m, 2H).

reactant | DIPEA | 1.06 mmol, 0.18 mL, 137 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | {[5-(2-trifluoromethyl-phenyl)-1H-pyrazole-3-carbonyl]-amino}-acetic acid | 0.30 mmol, 95 mg | FC(C1=C(C=CC=C1)C1=CC(=NN1)C(=O)NCC(=O)O)(F)F | C13H10F3N3O3
reactant | HOBT | 0.34 mmol, 47 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.34 mmol, 67 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | piperazin-1-yl-(2-trifluoromethyl-phenyl)-methanone hydrochloride salt | 0.30 mmol, 90 mg | Cl.N1(CCNCC1)C(=O)C1=C(C=CC=C1)C(F)(F)F
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-(2-trifluoromethyl-phenyl)-1H-pyrazole-3-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide | 115 mg, 68.45% yield | O=C(CNC(=O)C1=NNC(=C1)C1=C(C=CC=C1)C(F)(F)F)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C25H21F6N5O3
